US07432279B2
6-(2-morpholinoethylamino)-4-(3-(prop-1-ynyl)phenylamino)-1,7-naphthyridine-3-carbonitrile
A mixture of 4-(3-iodophenylamino)-6-(2-morpholinoethylamino)-1,7-naphthyridine-3-carbonitrile (105.6 mg, 0.21 mmol, 1 eq) and tetrakis(triphenylphosphine)palladium(0) (25 mg, 0.02 mmol, 0.1 eq) was taken up in toluene (2.5 mL) in microwave tube. Tributyl(prop-1-ynyl)stannane (193 uL, 0.63 mmol, 3 eq) was added to the mixture. The tube was sealed and heated 150° C. for 1 hr. Work-up followed by chromatography (1-3% Methyl alcohol in dichloromethane), yielded 35.6 mg product (41% yield): 1H NMR (400 MHz, DMSO-D6) δ ppm 2.04 (s, 3 H) 2.40-2.46 (m, 4 H) 2.55 (t, J=6.69 Hz, 2 H) 3.30-3.40 (m, 2 H) 3.55-3.60 (m, 4 H) 6.64 (t, J=5.68 Hz, 1 H) 7.01 (s, 1 H) 7.23 (s, 1 H) 7.25 (s, 2 H) 7.34-7.40 (m, 1 H) 8.28 (s, 1 H) 8.84 (s, 1 H) 9.61 (s, 1 H).

reactant | 4-(3-iodophenylamino)-6-(2-morpholinoethylamino)-1,7-naphthyridine-3-carbonitrile | 0.21 mmol, 105.6 mg, 1 eq | IC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NCCN1CCOCC1)C#N | C21H21IN6O
reactant | Tributyl(prop-1-ynyl)stannane | 0.63 mmol, 193 uL, 3 eq | C(CCC)[Sn](C#CC)(CCCC)CCCC
reactant | Methyl alcohol | CO | CH4O
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 25 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-morpholinoethylamino)-4-(3-(prop-1-ynyl)phenylamino)-1,7-naphthyridine-3-carbonitrile | 35.6 mg, 41% yield | O1CCN(CC1)CCNC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=CC=C1)C#CC | C24H24N6O
